US06013658
2-((1R)-1-(tert-Butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid (0.17 g; 0.362 mmol) was dissolved in methylene chloride (8 ml). 1-Hydroxybenzotriazole (0.049 g; 0.362 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.083 g; 0.434 mmol) were added. The reaction mixture was stirred 15 min at room temperature. Ammonium hydrogencarbonate (0.057 g; 0.724 mmol) was added and the reaction mixture was stirred 12 h at room temperature. Methylene chloride (20 ml) was added and the reaction mixture was washed with sodium hydrogencarbonate (10%; 10 ml), sodium hydrogensulfate (5%; 2×10 ml) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (2×15 cm) using ethyl acetate/heptane (1:1) as eluent to afford 0.155 g of 2-((1R)-1-(tert-butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide.

reactant | 2-((1R)-1-(tert-Butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid | 0.362 mmol, 0.17 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(=O)O)C1=CC=CC=C1 | C27H26N2O4S
reactant | 1-Hydroxybenzotriazole | 0.362 mmol, 0.049 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.434 mmol, 0.083 g | Cl.CN(CCCN=C=NCC)C
reactant | Ammonium hydrogencarbonate | 0.724 mmol, 0.057 g | C(O)([O-])=O.[NH4+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-((1R)-1-(tert-butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide | 0.155 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(=O)N)C1=CC=CC=C1 | C27H27N3O3S
